US09283555B2
N1-(2-ethylphenyl)-4-methylbenzamidine (Amidine VIII)
Procedure as described for Amidine I using the following amounts: 6.18 mL of 2-ethylaniline (50.0 mmol); 25.0 mL of 2.0 M butyllithium (50.0 mmol), 5.86 g of 4-methylbenzonitrile (50.0 mmol). After refluxing overnight, the solution was dark brown. Addition of water yielded a yellow solution with suspended solid. Solution was filtered and taken to dryness. The residue was treated with 75 mL of pentane, stirred overnight, and filtered yielding 10.51 g (88%) of light yellow solid. 1H NMR (400 MHz, CDCl3): 7.79 (d, 2H), 7.25 (d, 3H), 7.17 (t, 1H), 7.02 (t, 1H), 6.86 (d, 1 H), 4.68 (s, 2H), 2.57 (q, 2H), 2.41 (s, 3H), 1.17 (t, 3H).

reactant | 2-ethylaniline | 50.0 mmol, 6.18 mL | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | butyllithium | 50.0 mmol, 2.0 M, 25.0 mL | C(CCC)[Li]
reactant | 4-methylbenzonitrile | 50.0 mmol, 5.86 g | CC1=CC=C(C#N)C=C1 | C8H7N
solvent | water | O | H2O
product | N1-(2-ethylphenyl)-4-methylbenzamidine | C(C)C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C)=N | C16H18N2
